US06861428B2
1) Preparation of 4-(4-tert-butoxycarbonyl-1-piperazinyl)methyl-2-(2,6-dichlorobenzyl)-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-(2,6-dichlorobenzyl)-6-(4-fluoro-3-methylphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and tert-butyl 1-piperazinecarboxylate were reacted to yield the title compound as a yellow oil (yield: 90.8%).

reactant | 2-(2,6-dichlorobenzyl)-6-(4-fluoro-3-methylphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | ClC1=C(CN2N=C(C=C(C2=O)COS(=O)(=O)C)C2=CC(=C(C=C2)F)C)C(=CC=C1)Cl | C20H17Cl2FN2O4S
reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | 4-(4-tert-butoxycarbonyl-1-piperazinyl)methyl-2-(2,6-dichlorobenzyl)-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one | yield: 90.8% | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1C(N(N=C(C1)C1=CC(=C(C=C1)F)C)CC1=C(C=CC=C1Cl)Cl)=O | C28H31Cl2FN4O3
